US04304728
6-(4-Chlorophenyl)-4-oxo-4H-pyran-2-carboxylic acid
A solution of ethyl 6-(4-chlorophenyl)-2,4,6-trioxohexanoate (0.30 g) in dioxan (2 ml) and concentrated hydrochloric acid (2 ml) was heated on a steam bath for 2 hours. The pale solid which formed was recrystallised from ethanol to give the title product identical (mp, IR and NMR, and thin-layer chromatography) with the product described in Example 24.

reactant | ethyl 6-(4-chlorophenyl)-2,4,6-trioxohexanoate | 0.30 g | ClC1=CC=C(C=C1)C(CC(CC(C(=O)OCC)=O)=O)=O | C14H13ClO5
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 2 ml | Cl | ClH
product | 6-(4-Chlorophenyl)-4-oxo-4H-pyran-2-carboxylic acid | ClC1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)O)=O | C12H7ClO4
